US04278678
Into 15 ml of ethanol, 430 mg of potassium hydroxide was dissolved and 1.7 g (0.00512 mole) of ethyl α-(p-cyclohexylphenoxy)α-cyclohexylacetate was added. The mixture was heated on a water bath at 65° to 70° C. for 90 minutes and then ethanol was distilled off under a reduced pressure and the residue was admixed with water and washed twice with benzene. The water layer was acidified with 10% HCl aq.sol. to precipitate a precipitate. The precipitate was filtrated and washed with water and dried. The product was recrystallized from n-hexane to obtain 0.7 g of α-(p-cyclohexylphenoxy)α-cyclohexylacetic acid (yield: 44.9%).

reactant | potassium hydroxide | 430 mg | [OH-].[K+]
reactant | ethyl α-(p-cyclohexylphenoxy)α-cyclohexylacetate | 0.00512 mole, 1.7 g | C1(CCCCC1)C1=CC=C(OC(C(=O)OCC)C2CCCCC2)C=C1 | C22H32O3
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | α-(p-cyclohexylphenoxy)α-cyclohexylacetic acid | 0.7 g, yield: 44.9% | C1(CCCCC1)C1=CC=C(OC(C(=O)O)C2CCCCC2)C=C1 | C20H28O3
